US05149700
Step 4) Preparation of 2-[2-Methylamino(benzimidazol-1-yl)]ethyl Methanesulfonate
To a cooled (0° C.), stirred mixture of 1-(2-hydroxyethyl)-2-methylamino-1H-benzimidazole (8.05 g, 42.12 mmol), Et3N (4.26 g, 42.12 mmol), and CH2Cl2 (85 mL) was added a solution of MsCl (4.83 g, 42.12 mmol) in CH2Cl2 (10 mL). After 2 hours, H2O was added and the layers were separated. The aqueous phase was extracted with CH2Cl2. The combined extracts were washed with brine, dried, and concentrated to give 8.00 g (71%) of a white solid m.p. 48°-50° C.

reactant | 1-(2-hydroxyethyl)-2-methylamino-1H-benzimidazole | 42.12 mmol, 8.05 g | OCCN1C(=NC2=C1C=CC=C2)NC | C10H13N3O
reactant | Et3N | 42.12 mmol, 4.26 g | CCN(CC)CC | C6H15N
reactant | MsCl | 42.12 mmol, 4.83 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | H2O | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 85 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-Methylamino(benzimidazol-1-yl)]ethyl Methanesulfonate | 8.00 g, 71% | CS(=O)(=O)OCCN1C(=NC2=C1C=CC=C2)NC | C11H15N3O3S
